US09029401B2
trans-4-(4-Amino-cyclohexyloxy)-benzonitrile
To a solution of trans-4-aminocyclohexanol (3 g, 26 mmol) in DMF (130 mL) at 0° C. was added 60% sodium hydride in oil. The reaction mixture was stirred at 0° C. for 1 h and then 4-fluorobenzonitrile (3.9 g, 32.6 mmol) was added. It was heated to 60° C. for 2 h and stirred for 12 h at room temperature. The reaction mixture was diluted with EtOAc and washed with water and brine. The organic layer was dried, filtered, and concentrated under reduced pressure to provide the titled compound (2.5 g, 44% yield). 1H NMR (300 MHz, DMSO-d6): δ7.72 (d, J=9 Hz, 2H), 7.09 (d, J=9 Hz, 2H), 4.48-4.34 (m, 1H), 2.68-2.55 (m, 1H), 2.07-1.94 (m, 2H), 1.85-1.71 (m, 2H), 1.46-1.11 (m, 4H).

reactant | trans-4-aminocyclohexanol | 26 mmol, 3 g | N[C@@H]1CC[C@H](CC1)O | C6H13NO
reactant | sodium hydride | [H-].[Na+]
reactant | 4-fluorobenzonitrile | 32.6 mmol, 3.9 g | FC1=CC=C(C#N)C=C1 | C7H4FN
solvent | DMF | 130 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | trans-4-(4-Amino-cyclohexyloxy)-benzonitrile | 2.5 g, 44% yield | N[C@@H]1CC[C@H](CC1)OC1=CC=C(C#N)C=C1 | C13H16N2O
